US07067540B2
To a −78° C. solution of 5-(carboxymethyl)-indole-1-carbamic acid tert-butyl ester (10.8 g, 39 mmol) in THF (180 mL) was added DIBAL (127 mL of a 1 M solution in THF, 127 mmol), and the reaction mixture was stirred for 2.5 h. The reaction was quenched with 1:11 N HCl/MeOH (100 mL), the reaction mixture was warmed to room temperature, diluted with CH2Cl2 (100 mL), and separated. The organic solution was washed with saturated Rochelle salt, dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:1 EtOAc/hexanes) provided 5-hydroxymethylindole-1-carbamic acid tert-butyl ester as a yellow oil (6.5 g, 68%): 1H NMR (300 MHz, CDCl3) δ 8.07 (d, J=9 Hz, 1H), 7.59 (d, J=6 Hz, 1H), 7.54 (s, 1H), 7.28 (d, J=9 Hz, 1H), 6.58 (d, J=6 Hz, 1H), 4.73 (s, 2H), 1.97 (s, 9H).

reactant | 5-(carboxymethyl)-indole-1-carbamic acid tert-butyl ester | 39 mmol, 10.8 g | C(C)(C)(C)OC(NN1C=CC2=CC(=CC=C12)CC(=O)O)=O | C15H18N2O4
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | THF | 180 mL | C1CCOC1 | C4H8O
product | 5-hydroxymethylindole-1-carbamic acid tert-butyl ester | 6.5 g, 68% | C(C)(C)(C)OC(NN1C=CC2=CC(=CC=C12)CO)=O | C14H18N2O3
